US08008306B2
d) Preparation of 3-benzyl-8-(trifluoromethyl)quinolin-4-ol
To a solution of [4-hydroxy-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone (17.0 g, 53.7 mmol) in tetrahydrofuran (270 mL), aluminum chloride (35.1 g, 263 mmol) and sodium borohydride (5.49 g, 145 mmol) were added at 0° C., stirred at room temperature for 30 minutes, and then refluxed for 5 hours. The reaction solution was brought to 0° C., added with water, and extracted with ethyl acetate. Subsequently, the organic layer was washed with brine, dried using anhydrous sodium sulfate, and concentrated in vacuo. The obtained residue was recrystallized with ethyl acetate, and the title compound (11.7 g, yield 72%) was obtained as a colorless crystal.

reactant | [4-hydroxy-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | 53.7 mmol, 17.0 g | OC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C17H10F3NO2
reactant | aluminum chloride | 263 mmol, 35.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium borohydride | 145 mmol, 5.49 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 270 mL | O1CCCC1 | C4H8O
product | 3-benzyl-8-(trifluoromethyl)quinolin-4-ol | 11.7 g, yield 72% | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1O)C(F)(F)F | C17H12F3NO
